US08835428B2
(R,Z)-Methyl 2-(ethylthio(3-(4-(3-(2-fluorophenyl)ureido)phenyl) isoxazol-5-yl)methyleneamino)-3-methylbutanoate
The title compound was prepared according to the procedure as set forth in example 151, except that 1-fluoro-2-isocyanatobenzene was used in place of 1-fluoro-3-isocyanatobenzene and (R,Z)-methyl 2-((3-(4-aminophenyl)isoxazol-5-yl)(ethylthio) methyleneamino)-3-methylbutanoate was used in place of methyl 2-(3-(4-aminophenyl)isoxazole-5-carboxamido)-3-methylbutanoate to yield 76% of the title compound. MS (ESI): m/z 499 (M+H)+; 1HNMR (DMSO-d6, 300 MHz): δ 8.124 (s, 1H), 8.101 (d, 1H), 7.858 (s, 1H), 7.593 (m, 1H), 7.406 (m, 1H), 7.260 (s, 2H), 7.095 (m, 2H), 6.991 (m, 1H), 6.701(d, 1H), 4.583 (d, 1H), 3.843 (s, 3H), 3.075 (m, 2H), 2.450 (s, 1H), 1.331 (t, 3H), 1.076 (d, 6H).

reactant | 1-fluoro-2-isocyanatobenzene | FC1=C(C=CC=C1)N=C=O | C7H4FNO
reactant | (R,Z)-methyl 2-((3-(4-aminophenyl)isoxazol-5-yl)(ethylthio) methyleneamino)-3-methylbutanoate | NC1=CC=C(C=C1)C1=NOC(=C1)/C(/SCC)=N/[C@@H](C(=O)OC)C(C)C | C18H23N3O3S
product | (R,Z)-Methyl 2-(ethylthio(3-(4-(3-(2-fluorophenyl)ureido)phenyl) isoxazol-5-yl)methyleneamino)-3-methylbutanoate | 76% | C(C)S\C(\C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)F)=N/[C@@H](C(=O)OC)C(C)C | C25H27FN4O4S
